US07342115B2
Step 3. Preparation of 2,6-dimethyl-3-methoxybenzeneboronic acid
A solution of 2,4-dimethyl-3-bromoanisole (3.3 g, 15 mmol) in THF (15 mL) is added dropwise at −78° C. to a solution of n-butyllithium (11 mL of 1.6M in hexane, 17 mmol) in THF (35 mL). After 30 minutes, trimethyl borate (2.3 mL, 20 mmol) is added and the mixture is allowed to warm to room temperature overnight. The mixture is poured onto 10% HCl and extracted with ethyl acetate. The organic fraction is washed with saturated brine, dried (Na2SO4), and concentrated to give the desired product as a brownish oil. 1H NMR (CDCl3) 6.98 (d, 1H), 6.75 (d, 1H), 4.64 (br s), 3.80 (s, 3 H), 2.27 (s, 3H), 2.22 (s, 3H)

reactant | 2,4-dimethyl-3-bromoanisole | 15 mmol, 3.3 g | CC1=C(C=CC(=C1Br)C)OC | C9H11BrO
reactant | n-butyllithium | 17 mmol, 1.6M, 11 mL | C(CCC)[Li]
reactant | trimethyl borate | 20 mmol, 2.3 mL | B(OC)(OC)OC | C3H9BO3
reactant | HCl | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 2,6-dimethyl-3-methoxybenzeneboronic acid | CC1=C(C(=CC=C1OC)C)B(O)O | C9H13BO3
